US06093732
N-((4-Chlorophenyl)methyl)-6,8-difluoro-4-hydroxy-7-(1-methylethoxy)-3-quinolinecarboxamide
N-((4-Chlorophenyl)methyl)-4-hydroxy-6,7,8-trifluoro-3-quinolinecarboxamide (500 mg) from Example No. 15 and sodium hydride (60% dispersion, 109 mg) are dissolved in DMF (10 mL) and to the mixture is added 2-propanol (115 μL). After being heated for 1 h, additional sodium hydride (50 mg) is added, and the mixture is heated for an additional 1 h. The reaction mixture is allowed to cool to rt, poured into sat. aq. ammonium chloride (25 mL), and is filtered. The crude product is purified by column chromatography (dichloromethane/methanol, 100/1) to afford 62 mg of the title compound as a white solid.

reactant | N-((4-Chlorophenyl)methyl)-4-hydroxy-6,7,8-trifluoro-3-quinolinecarboxamide | 500 mg | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=C(C(=C(C=C2C1O)F)F)F | C17H10ClF3N2O2
reactant | sodium hydride | 109 mg | [H-].[Na+]
reactant | 2-propanol | 115 μL | CC(C)O | C3H8O
reactant | sodium hydride | 50 mg | [H-].[Na+]
reactant | ammonium chloride | 25 mL | [Cl-].[NH4+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-((4-Chlorophenyl)methyl)-6,8-difluoro-4-hydroxy-7-(1-methylethoxy)-3-quinolinecarboxamide | 62 mg | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=C(C(=C(C=C2C1O)F)OC(C)C)F | C20H17ClF2N2O3
